US07812167B2
A solution of 6-methoxy-pyridin-3-ylamine (40.3 mmol, 5.0 g) in 10 mL of acetic acid is added slowly to a solution of potassium thiocyanate (205 mmol, 20 g) in 100 mL of acetic acid at 0° C. followed by a solution of bromine (48.8 mmol, 2.5 mL) in 5 mL of acetic acid. The reaction is stirred for 2 h at 0° C. and then allowed to warm to RT. The resulting solid is collected by filtration and washed with acetic acid, then partitioned between EtOAc and saturated aqueous NaHCO3. The insoluble material is removed by filtration and the organic layer is dried and evaporated to afford 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine as a tan solid.

reactant | 6-methoxy-pyridin-3-ylamine | 40.3 mmol, 5.0 g | COC1=CC=C(C=N1)N | C6H8N2O
reactant | potassium thiocyanate | 205 mmol, 20 g | [S-]C#N.[K+]
reactant | bromine | 48.8 mmol, 2.5 mL | BrBr | Br2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-methoxy-thiazolo[5,4-b]pyridin-2-ylamine | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
